US05919951
A quantity of 762 g (4.536 mol) of 2-phenylthioacetic acid is stirred at room temperature for 3 hours with thionyl chloride (375 ml, 5.14 mol), then stirred at 40° C. for 3 hours. Rotary evaporation followed by bulb-to-bulb distillation gives 777 g (4.166 mol, 92%) of 2-phenylthioacetyl chloride.

reactant | 2-phenylthioacetic acid | 4.536 mol, 762 g | C1(=CC=CC=C1)CC(=S)O | C8H8OS
reactant | thionyl chloride | 5.14 mol, 375 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-phenylthioacetyl chloride | 4.166 mol, 777 g, 92% | C1(=CC=CC=C1)CC(=S)Cl | C8H7ClS
